US05189205
β-Alanine ethyl ester isocyanate:
Carbon dioxide was added subsurface to a dichloromethane (40 mL) solution containing β-alanine ethyl ester hydrochloride salt (0.03 mol, 4.6 g), N-cyclohexyl-N',N',N",N"-tetraethylguanidine (0.03 mol, 7.6 g) and triethylamine (0.12 mol, 12.0 g) at -10° C. (ice and salt bath) for 40 min at a pressure of 0 psig. The reaction mixture was transferred rapidly via cannula under carbon dioxide to the precooled solution of phosphorus oxychloride (0.03 mol, 4.8 g) in 40 mL dichloromethane. After stirring for 20 min at -10° C. diethylether (50 mL) was added to the reaction mixture. A white ppt formed and was filtered off. The filtrate was concentrated in vacuo and the residue was extracted with 3×25 mL diethylether. The ether layers were concentrated and the residue was distilled under vacuum collecting product, β-alanine ethyl ester isocyanate, at 37°-39° C. (2.74 g, 64%) of 97.3% purity as judged by GC. IR (neat) 2272, 1732 cm-1. 1H NMR (CDCl3) δ 4.16 (q, 2H, J=4.3), 3.56 (t, 2H, J=6.4), 2.57 (t, 2H, J=6.4), 1.25 (t, 3H, J=7.2) ppm.

reactant | Carbon dioxide | C(=O)=O | CO2
reactant | β-alanine ethyl ester hydrochloride salt | 0.03 mol, 4.6 g | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 0.12 mol, 12.0 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 0.03 mol, 4.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | diethylether | 50 mL | C(C)OCC | C4H10O
product | β-Alanine ethyl ester isocyanate | [N-]=C=O.C(C)OC(CCN)=O | InChI=1S/C5H11NO2.CNO/c1-2-8-5(7)3-4-6;2-1-3/h2-4,6H2,1H3;/q;-1
